### ISSUE TITLE
Wikipedia/WallSunSun: infinite_isWallSunSunPrime_of_disc_eq is elementary because its Lucas parameters vary with p

### ISSUE THREAD

**Issue by wty500** [google-deepmind/formal-conjectures#5015]
### Describe the misformalization

[`infinite_isWallSunSunPrime_of_disc_eq`](https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/Wikipedia/WallSunSun.lean#L154-L158) is marked `research open`:

```lean
theorem infinite_isWallSunSunPrime_of_disc_eq {D : ℤ}
    (hD : IsFundamentalDiscr D) (hD₁ : D ≠ 1) :
    {p : ℕ | ∃ a b, a ^ 2 - 4 * b = D ∧
      IsLucasWieferichPrime a b p}.Infinite := by
  sorry
```

The source says that, for every non-one fundamental discriminant `D`, there are infinitely many Wall–Sun–Sun primes with discriminant `D`. The current Lean statement interprets

```text
p is a Wall–Sun–Sun prime with discriminant D
```

as the existence of some Lucas parameters `(a,b)` with `a² - 4b = D`. Because this existential quantifier is inside the predicate on `p`, a different pair may be chosen for every prime.

This is a possible literal reading of the source, but it is not clear that it is the intended one.

### Trivial proof/disproof
Every odd prime `p` not dividing `D` belongs to the formalized set. Choose

```text
a = p²    if D ≡ 1 (mod 4),
a = 2p²   if 4 ∣ D,
b = (a² - D) / 4.
```

Then `a² - 4b = D` and `p² ∣ a`. Since `p ∤ D`, the Jacobi symbol `J(D | p)` is `±1`, so `n = p - J(D | p)` is positive and even. The recurrence

```text
U₀ = 0,  U₁ = 1,  Uₙ₊₂ = a Uₙ₊₁ - b Uₙ
```

implies `a ∣ U₂ₖ(a,b)`. Hence `p² ∣ Uₙ(a,b)`, proving `IsLucasWieferichPrime a b p`. Only finitely many odd primes divide `D`, so the current set is infinite.

<details>
 <summary>Lean Proof</summary>

The following compiles against the current Formal Conjectures environment. 
```lean
import FormalConjectures.Wikipedia.WallSunSun

open NumberField
open scoped NumberTheorySymbols

theorem wallSunSunCurrentFormalizationSolved {D : ℤ}
    (hD : IsFundamentalDiscr D) (hD₁ : D ≠ 1) :
    {p : ℕ | ∃ a b, a ^ 2 - 4 * b = D ∧ IsLucasWieferichPrime a b p}.Infinite := by
  have hD₀ : D ≠ 0 := by
    rintro rfl
    simp [IsFundamentalDiscr] at hD
  rw [Set.infinite_iff_exists_gt]
  intro N
  obtain ⟨p, hp_bound, hp⟩ :=
    Nat.exists_infinite_primes (max (N + 1) (max 3 (D.natAbs + 1)))
  have hpN : N < p := by omega
  have hpD : D.natAbs < p := by omega
  have hp_two : p ≠ 2 := by omega
  have hp_odd : Odd p := hp.odd_of_ne_two hp_two
  have hp_not_dvd_natAbs : ¬p ∣ D.natAbs := by
    intro h
    have := Nat.le_of_dvd (Int.natAbs_pos.mpr hD₀) h
    omega
  have hp_not_dvd : ¬(p : ℤ) ∣ D := by
    simpa only [Int.natCast_dvd] using hp_not_dvd_natAbs
  have hcop : D.gcd (p : ℤ) = 1 := by
    rw [Int.gcd_eq_natAbs, Int.natAbs_natCast, Nat.gcd_comm]
    exact hp.coprime_iff_not_dvd.mpr hp_not_dvd_natAbs
  have hJ : J(D | p) = 1 ∨ J(D | p) = -1 := jacobiSym.eq_one_or_neg_one hcop
  have hU_even (a b : ℤ) (ha : ((p ^ 2 : ℕ) : ℤ) ∣ a) (k : ℕ) :
      ((p ^ 2 : ℕ) : ℤ) ∣ LucasSequence.U a b (2 * k) := by
    induction k with
    | zero => simp [LucasSequence.U]
    | succ k ih =>
        rw [show 2 * (k + 1) = 2 * k + 2 by omega, LucasSequence.U]
        exact (ha.mul_right _).sub (ih.mul_left _)
  have mkLWP (a b : ℤ) (hab : a ^ 2 - 4 * b = D)
      (ha : ((p ^ 2 : ℕ) : ℤ) ∣ a) : IsLucasWieferichPrime a b p := by
    refine ⟨hp, hp_odd, ?_, ?_⟩
    · rwa [hab]
    · apply Int.modEq_zero_iff_dvd.mpr
      obtain ⟨k, hk⟩ := hp_odd
      rcases hJ with hJ | hJ
      · have hidx : ((p : ℤ) - 1).toNat = 2 * k := by
          rw [hk]
          norm_num
          change (((2 * k : ℕ) : ℤ)).toNat = 2 * k
          exact Int.toNat_natCast _
        rw [hab, hJ, hidx]
        exact hU_even a b ha k
      · have hidx : ((p : ℤ) - (-1)).toNat = 2 * (k + 1) := by
          rw [hk]
          norm_num
          omega
        rw [hab, hJ, hidx]
        exact hU_even a b ha (k + 1)
  refine ⟨p, ?_, hpN⟩
  change ∃ a b, a ^ 2 - 4 * b = D ∧ IsLucasWieferichPrime a b p
  rcases hD with ⟨⟨d, hd⟩, _, _⟩ | ⟨_, hDmod, _⟩
  · subst D
    refine ⟨2 * ((p ^ 2 : ℕ) : ℤ), ((p ^ 2 : ℕ) : ℤ) ^ 2 - d,
      ?_, mkLWP _ _ ?_ ?_⟩
    · ring
    · ring
    · exact (dvd_refl ((p ^ 2 : ℕ) : ℤ)).mul_left 2
  · obtain ⟨d, hd⟩ := hDmod.dvd
    have hD_eq : D = 1 - 4 * d := by omega
    obtain ⟨k, hk⟩ := hp_odd
    refine ⟨((p ^ 2 : ℕ) : ℤ),
      4 * (k : ℤ) ^ 4 + 8 * (k : ℤ) ^ 3 + 6 * (k : ℤ) ^ 2 + 2 * k + d,
      ?_, mkLWP _ _ ?_ ?_⟩
    · norm_num [hk, hD_eq]
      ring
    · norm_num [hk, hD_eq]
      ring
    · exact dvd_refl _
```

</details>

### Suggested fix

The current formal statement has an elementary proof, so it should not remain an unproved `research open` declaration in its present form. I suggest:

1. replacing its `sorry` with the formal proof and marking the current statement `research solved`; and
2. documenting explicitly that the proof uses Lucas parameters `(a,b)` that may depend on `p`.

The maintainers should then review whether this interpretation faithfully represents the source:

- If “with discriminant `D`” permits `(a,b)` to vary with `p`, the current statement is correctly formalized and solved.
- If it refers to one fixed Lucas sequence, the statement should instead be reformulated and may remain open.

### Additional context
- [Current Wikipedia definition and conjecture](https://en.wikipedia.org/wiki/Wall%E2%80%93Sun%E2%80%93Sun_prime#Wall%E2%80%93Sun%E2%80%93Sun_primes_with_discriminant_D)
- [Wikipedia edit introducing the infinitude sentence](https://en.wikipedia.org/w/index.php?diff=676076025&oldid=676075891)
- [Wikipedia discussion explicitly asking whether `(P,Q)` is fixed](https://en.wikipedia.org/wiki/Talk:Wall%E2%80%93Sun%E2%80%93Sun_prime#Conjecture_about_discriminants)

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else

### AI assistance disclosure
GPT 5.6 sol max is used for drafting this issue and lean proof.
